US04022786
1-Methyl-4,4-diphenylpiperidine
100 g. of 1-methyl-3-benzoyl-4-hydroxy-4-phenylpiperidine are suspended in 600 ml. of anhydrous benzene while stirring. 200 g. of finely pulverized, anhydrous aluminum chloride are added in portions thereto within 25 minutes. The reaction temperature increases to about 45° C. when adding the first portion of aluminum chloride. After about 20 minutes the reaction temperature of the reaction mixture is maintained at 50° to 55° C. for about 1 hour. The reaction mixture is then cooled to room temperature and is introduced into a mixture of ice and concentrated hydrochloric acid while stirring. After heating the mixture to room temperature, the benzene layer is separated from the hydrochloric acid and oil layer which is washed with benzene. The hydrochloric acid and oil layer is diluted, while stirring, with an amount of water sufficient to cause substantially all the oil to be dissolved. The resulting aqueous solution is then rendered alkaline by the addition of 40% sodium hydroxide solution, while stirring, and the alkaline solution is extracted with ether. The combined ether extracts are dried over anhydrous potassium carbonate and are concentrated by evaporation of the ether. 83.5 g. of the crude base are obtained as residue in the form of a dark oil. A light oil boiling at 98° to 103° C./0.01 mm. Hg is recovered by distillation of said crude oil in a high vacuum. The oil solidifies to crystals on standing for a short period of time. After recrystallization from aqueous dimethylformamide, the resulting 1-methyl-4,4-diphenylpiperidine has a melting point of 71° to 73° C.

reactant | 1-methyl-3-benzoyl-4-hydroxy-4-phenylpiperidine | CN1CC(C(CC1)(C1=CC=CC=C1)O)C(C1=CC=CC=C1)=O | C19H21NO2
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-Methyl-4,4-diphenylpiperidine | CN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H21N
